US05660974
Preparation of N,N-bis(p-carboxybenzyl)hydroxylamine (BCH).
A filtered solution of 4-(chloromethyl)benzoic acid (33.0 g, 186 mmol) and NaOH (7.43 g, 186 mmol) was added over a 5 minute period to a solution of hydroxylamine hydrochloride (6.45 g, 92.8 mmol), NaOH (3.7 g, 92.8 mmol) and water (100 mL). The solution was stirred mechanically, and heated to 45° C. The pH of the solution was kept at 8-10 by the addition of aqueous NaOH. When the pH of the solution stopped decreasing, the solution was filtered, then acidified with concentrated H2SO4 to a pH of 4. The resulting white solid was isolated by filtration and washed with copious amounts of water until no cloudiness was observed when the filtrate was treated with aqueous silver nitrate. The product was dried in vacuo then dissolved in boiling N,N-dimethylformamide (DMF) (60 mL) and the hot solution treated with water until slightly turbid. The solution was cooled and the white solid which formed was isolated by filtration, washed with water, and dried in vacuo at 70° C. at 0.01 Torr to give 10.9 g (39%) product. The product met the following criteria: 1H NMR (DMSO-d6) δ 12.87 (br, s, 2H), 7.86 (d, J=7.5 Hz, 4H), 7.45 (d, J=7.5 Hz, 4H), 3.87 (s, 4H). 13C {1H} NMR (DMSO-d6) δ 167.3, 143.6, 129.4, 129.1, 129.0, 63.5. Analyzed for C16H15NO5 : C, 63.78; H, 5.02; N, 4.65. Found: C, 63.62; H, 5.11; N, 4.84.

reactant | 4-(chloromethyl)benzoic acid | 186 mmol, 33.0 g | ClCC1=CC=C(C(=O)O)C=C1 | C8H7ClO2
reactant | NaOH | 186 mmol, 7.43 g | [OH-].[Na+]
reactant | hydroxylamine hydrochloride | 92.8 mmol, 6.45 g | Cl.NO
reactant | NaOH | 92.8 mmol, 3.7 g | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | N,N-bis(p-carboxybenzyl)hydroxylamine | 10.9 g, 39% | C(=O)(O)C1=CC=C(CN(O)CC2=CC=C(C=C2)C(=O)O)C=C1 | C16H15NO5
